US04148904
4-Acetamido-2-bromothiazole
4-Amino-2-bromothiazole hydrobromide (52 g, 0.2 m) was suspended in acetic anhydride (200 ml) then treated dropwise with pyridine (100 ml), maintaining the temperature at 0° C. by means of an ice bath. After the addition was complete, the reaction mixture was stirred for 2 h. at room temperature then poured onto 20% aqueous sodium acetate (2 l). The solution was cooled, filtered and the precipitate washed with water (2×200 ml.). The product was air dried and recrystallised from acetone to give the title compound (35 g, 80%). m.p. 165° C. Found: C, 27.5; H, 2.5; N, 12.7. C5H5BrN2OS requires C, 27.2; H, 2.3; N, 12.7%.

reactant | 4-Amino-2-bromothiazole hydrobromide | 52 g | Br.NC=1N=C(SC1)Br
reactant | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium acetate | 2 l | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetamido-2-bromothiazole | 35 g, 80% | C(C)(=O)NC=1N=C(SC1)Br | C5H5BrN2OS
